US04612317
Ethyl (1RS, 3SR)-trans-1-ethyl-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate:
(1RS, 3SR)-trans-1-Ethyl-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline (0.461 g) is dissolved in dimethylsulfoxide (2 ml), and thereto are added CS2 (0.27 ml) and triethylamine (0.61 ml). The mixture is stirred at room temperature for one hour, and thereto is added dropwise ethyl iodide (0.38 ml), and the mixture is stirred at room temperature for 2 hours. The reaction mixture is poured onto ice-water, and the mixture is extracted with ethyl acetate. The extract is washed with water, dried over sodium sulfate and then distilled to remove the solvent. The residue is recrystallized from aqueous ethanol to give the title compound (0.477 g, 71%) as colorless needles, m.p. 82°-84° C., NMR (CDCl3, δ): 1.40 (t, J=7.0 Hz, 3H, CSSCH2CH3); Mass m/e: 334 (M+), 272 (M+ --CH3CH2SH).

reactant | (1RS, 3SR)-trans-1-Ethyl-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline | 0.461 g | C(C)[C@@H]1N[C@H](CC=2C3=CC=CC=C3NC12)CO | C14H18N2O
reactant | CS2 | 0.27 ml | C(=S)=S | CS2
reactant | triethylamine | 0.61 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl iodide | 0.38 ml | C(C)I | C2H5I
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
product | Ethyl (1RS, 3SR)-trans-1-ethyl-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | 0.477 g, 71% | C(C)[C@@H]1N([C@H](CC=2C3=CC=CC=C3NC12)CO)C(=S)SCC | C17H22N2OS2
